US05191092
Ethyl 5-methoxy-indan-2-carboxylate
32.0 g (0.145 mol) of ethyl 6-methoxy-indan-1-one-2-carboxylate [cf. H. O. House, C. B. Hudson, J. Org. Chem. 35 (1970) 3, 647-651] are hydrogenated with 20 bar of H2 at 50° C. for 5 h in 180 ml of MeOH in the presence of 5 g of palladium/carbon (5% strength) as a catalyst. The catalyst is filtered off, the methanol is stripped off in vacuo and the residue is distilled in a bulb tube furnace.

reactant | ethyl 6-methoxy-indan-1-one-2-carboxylate | 0.145 mol, 32.0 g | COC1=CC=C2CC(C(C2=C1)=O)C(=O)OCC | C13H14O4
solvent | MeOH | 180 ml | CO | CH4O
catalyst | palladium/carbon | 5 g | [Pd] | Pd
product | Ethyl 5-methoxy-indan-2-carboxylate | COC=1C=C2CC(CC2=CC1)C(=O)OCC | C13H16O3
